* C:\Users\evan6\Documents\Projects\audio\plugnslay\sim\plugnslay.asc
V1 P5V 0 PULSE(0 5 0 100u 100u 10 10)
C1 N009 N008 1µ ic=2.5
V2 N007 0 PULSE(-5 5 0 1n 1n {.5/20} {1/20}) AC 1
R1 P5V N009 470k
R2 N009 0 470k
R3 N008 N007 100
R4 N008 0 1Meg
C2 N010 0 2.2n
R5 N010 N009 1k
D1 N002 N004 D
R7 N005 N003 100
R8 N002 P5V 100
D3 N005 N004 D
R9 ref_clamp_h ref_clamp_l 220k
R10 ref_clamp_l 0 100k
R11 ref_clamp ref_clamp_h 100k
D2 N012 N011 D
R12 N011 0 100
D4 N012 N005 D
R6 N006 0 470k
C3 N006 N005 220n
C4 N005 0 22n
D5 N005 ref_clamp D
D6 0 N005 D
R14 P5V 0 10k
R15 P5V int_ref 47k
R16 int_ref 0 1k
C8 ref_clamp_l 0 2.2µ
C6 ref_clamp N001 470n
R17 N001 0 47k
C5 int_ref 0 2.2µ
R13 N003 0 10k
XU6 N010 N003 P5V 0 N003 ADA4622
XU1 ref_clamp_h N002 P5V 0 N004 ADA4622
XU2 ref_clamp_l N011 P5V 0 N012 ADA4622
XU3 int_ref N001 P5V 0 ref_clamp ADA4622
D7 N010 P5V D
D8 0 N010 D
.model D D
.lib C:\Users\evan6\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 2 0 startup uic
* active clamp
* passive clamp
* declick
* pot
.lib ADA4622.lib
.backanno
.end
